US07951824B2
5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid phenylamide
The title compound, was prepared from 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using Aniline instead of 3-chloroaniline to yield the final compound as a white solid, MS (ISP): m/e=308.3, 309.3 (M+H)+.

reactant | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C14H13FN2O2
reactant | Aniline | NC1=CC=CC=C1 | C6H7N
product | 5-Fluoro-6′-methyl-[3,4′]bipyridinyl-2′-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)C1=NC(=CC(=C1)C=1C=NC=C(C1)F)C | C18H14FN3O
